US07101912B2
Step A: Methyl 3-(3,4-dihydroxyphenyl)-2-hydrazino-2-methyl-propionate (107)
To a solution of carbidopa (226 mg, 1 mmol) in anhydrous methanol (20 mL), was added acetyl chloride (1 mL) at 0° C. The mixture was stirred at 65° C. in a pressure vessel for 4 h. Removal of solvent yielded 270 mg (99%) of the title compound as its hydrochloride salt. 1H NMR (CD3OD, 400 MHz): 1.46 (s, 3H), 2.86 (dd, 2H), 3.78 (s, 3H), 6.45 (dd, J=8 Hz, J=2 Hz), 6.56 (d, J=2.4 Hz), 6.69 (d, J=8.4 Hz). MS (ESI) m/z 241.15 (M+H+).

reactant | carbidopa | 1 mmol, 226 mg | C[C@](CC=1C=CC(=C(C1)O)O)(C(=O)O)NN | C10H14N2O4
reactant | acetyl chloride | 1 mL | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 20 mL | CO | CH4O
product | Methyl 3-(3,4-dihydroxyphenyl)-2-hydrazino-2-methyl-propionate | 270 mg, 99% | OC=1C=C(C=CC1O)CC(C(=O)OC)(C)NN | C11H16N2O4
